Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
nausea, vomiting, food intolerance
 
Major Surgical or Invasive Procedure:
EUS
Breast biopsy
 
History of Present Illness:
This is a ___ year-old female without much past medical
history (see below) who presented to the BID-M with w/ 3 weeks 
of
N/V + epigastric abdominal pain. Started 3 weeks w/ acute 
episode
of vomiting, and for past 3 weeks has had continued abdominal
pain, nausea, anorexia, weight loss of 6 pounds.

Notably states she had right breast lesion ___ years ago that was
reportedly biopsied in ___ (where she is originally from) 
and
was reportedly benign, over past 4 months has had enlarging 
right
breast mass, pain, overlying induration, erythema.  she has not
sought further evaluation of this to date.  

Went to ___ after 5 episodes of bilious vomiting last
night:

CT at ___:
 1. Stomach distention on the with transition to collapse
at second portion duodenum level. Differential includes
obstructing
duodenal or ampullary malignancy, or peptic ulcer disease.
Further
assessment with repeat endoscopy is recommended.
2. Contracted gallbladder without stones. Moderate biliary
dilatation
without definite dense intraluminal common duct stone. Raising
concern
about an ampullary neoplasm. A definite pancreatic head lesion 
is
not
identified. ERCP may clarify.
3. Widespread small bone sclerotic lesions, suspicious for
metastases.
Primary site uncertain.
4. Trace pelvic free fluid. Other incidental nonacute findings 
as
described above.

Transferred to ___ ED given no oncology or advanced endo at
___. 

In the ED here she is HD stable, AF, appears largely well, only
complaint is of intermittent abdominal fullness, reflux
'burning', nausea, LUQ pain on occasion, bloating, with occ n/v. 


Exam as as below

By way of further history - she is a former ___
___).  she travels much and frequently - including to
___ over the winter. She then moved to ___ in ___ for a
while after developing e coli uti in ___.   In ___ she
noted also abdominal pain, n/v.  she had a CT there which
revealed findings almost entirely congruent with those at ___
yesterday (reviewed by me) - she says she never sought eval for
possible metastatic disease as 'she is in denial and doesn't 
want
to go there'.  she has sought care from an
alternative/integrative doctor, taking supplements and vitamins
mostly. 

She also underwent egd and ___ in ___ - report reviewed,
including with mult biopsies of the mucosae including stomach 
and
duodenum - she reports these findings were benign, but we do not
(yet) have those reports here.
 
Past Medical History:
as above, no other history reported
 
Social History:
___
Family History:
mother died from pancreatic cancer in her ___. 
father died of valve disease c/b strokes in his ___.  She is ___
of 9 kids, of her siblings, two sisters have breast cancer - of
NOTE: she reports that BRCA testing was done in these sisters 
and
was NEGATIVE       
 
Physical Exam:
VS:  Afebrile and vital signs stable 
General Appearance: pleasant, comfortable, no acute distress
Eyes: PERRL, EOMI, no conjuctival injection, anicteric
Respiratory: CTA b/l with good air movement throughout
Cardiovascular: RR, S1 and S2 wnl, no murmurs, rubs or gallops. 
No JVD.  No carotid bruits
Gastrointestinal: +b/s, soft, very sl distended, no masses or 
HSM
very sl ttp in the epigastrium, luq, nr ng
Extremities: no cyanosis, clubbing or edema.  WWP
Skin: warm, no rashes/no jaundice/no skin ulcerations noted
BREAST EXAM conducted in presence of female tech in the ED: 
rt breast - at ___ o'clock has an approx. 4-6 cm irregular, 
firm,
erythematous with some traction on rt nipple.  NTTP, not warm, 
no
axillary adenopathy on my exam
Neurological: Alert, oriented to self, time, date, reason for
hospitalization. speech fluent, face symmetric, moves all ext
independent in gait and mobility
Psychiatric: pleasant, appropriate affect
GU: no urinary catheter in place
 
Pertinent Results:
___ 06:20AM BLOOD WBC-4.1 RBC-3.80* Hgb-11.3 Hct-34.8 
MCV-92 MCH-29.7 MCHC-32.5 RDW-12.4 RDWSD-41.3 Plt ___
___ 06:20AM BLOOD Glucose-96 UreaN-11 Creat-0.9 Na-142 
K-4.1 Cl-102 HCO3-28 AnGap-12
___ 06:00AM BLOOD ALT-19 AST-19 LD(LDH)-159 AlkPhos-60 
TotBili-0.6

EXAMINATION:  MRCP 
  
INDICATION:  ___ year old woman with Ampullary mass suspected, 
duodenal level 
gastric outlet obstruction.// Ampullary mass suspected, duodenal 
level gastric 
outlet obstruction. 
  
TECHNIQUE:  T1- and T2-weighted multiplanar images of the 
abdomen were 
acquired in a 1.5 T magnet. 
Intravenous contrast: 6 mL Gadavist. 
Oral contrast:  1 cc of Gadavist mixed with 50 cc of water was 
administered 
for oral contrast. 
  
COMPARISON:  CT abdomen and pelvis ___ 
  
FINDINGS:  
  
Lower Thorax: Grossly unremarkable. 
  
Liver: T2 hyperintense lesions (series 4, image 19) compatible 
with biliary 
hamartomas are noted.  No suspicious hepatic lesion. 
  
Biliary: There is moderate central extra and intrahepatic 
biliary ductal 
dilatation with the CBD measuring up to 15 mm (series 3, image 
12).  The CBD 
is dilated to the level of the ampulla.  At the level of the 
obstruction, 
there is duodenal soft tissue mural thickening (Series 6, image 
43, series 3, 
image 13, series 10, image 102) without a discrete lesion 
identified.  The 
gallbladder is unremarkable. 
  
Pancreas: There is mild dilatation of the main pancreatic duct 
up to 4 mm.  No 
definite suspicious pancreatic lesion. 
  
Spleen: The spleen is normal in size and signal intensity. 
  
Adrenal Glands: The adrenal glands are unremarkable, 
bilaterally. 
  
Kidneys: There is mild prominence of the renal calices, 
bilaterally, without 
frank hydronephrosis.  No suspicious renal mass identified. 
  
Gastrointestinal Tract:  No additional bowel wall thickening or 
bowel 
dilatation in the visualized upper abdomen.  There is colonic 
diverticulosis 
without diverticulitis.  The appendix is unremarkable. 
  
Lymph Nodes: No lymphadenopathy. 
  
Vasculature: No aortic aneurysm.  The aorta and its major 
branches are patent. 
  
Osseous and Soft Tissue Structures: No fracture, dislocation or 
suspicious 
osseous lesion.  Superficial soft tissues are grossly 
unremarkable. 
  
IMPRESSION:  
  
Periampullary duodenal mural soft tissue thickening without a 
discrete lesion 
identified.  Correlation with ERCP recommended.  Moderate 
upstream main 
pancreatic duct and intra and extrahepatic biliary ductal 
dilatation.  No 
lymphadenopathy. 
  
BY ELECTRONICALLY SIGNING THIS REPORT, I THE ATTENDING PHYSICIAN 
ATTEST THAT ___ HAVE REVIEWED THE ABOVE IMAGES FOR THE ABOVE 
EXAMINATION(S) AND AGREE WITH THE FINDINGS AS DOCUMENTED ABOVE. 
  
___, MD 
___, MD electronically signed on SAT ___ 2:16 
___ 

ADDENDUM  "PATHOLOGIC DIAGNOSIS: 
Right breast, 8:00, core needle biopsy: 
- Invasive lobular carcinoma, grade 2, measuring 7.5mm in this 
limited sample. 
" 
  
The pathology is malignant and is concordant with her breast 
imaging. 
The patient is under the care of Medical Oncology.  The results 
and 
recommendations were discussed with the patient in person by 
___, 
MD on ___. 
Her clinical care team will facilitate referral to BreastCare 
team. 
  
 BI-RADS-6 Known Biopsy-Proven Malignancy. 
   
___, MD electronically signed on ___ 10:53 AM 

EXAMINATION:  BILATERAL DIGITAL 2D AND 3D TOMOSYNTHESIS 
DIAGNOSTIC MAMMOGRAM 
INTERPRETED WITH CAD AND RIGHT BREAST ULTRASOUND 
  
INDICATION:  ___ woman with right breast palpable mass 
for ___ years, 
outer inferior breast, with focal skin thickening and 
retraction.  Recent 
diagnosis of bony metastatic disease on CT scan of the abdomen 
at ___ (done 
for nausea and vomiting and concern for obstruction).  Right 
breast mass seen 
on CT scan of the chest ___ with focal skin thickening 
and extension 
into the chest wall. 
  
COMPARISON:  None.  The patient reports priors in ___ in 
___. 
  
TECHNIQUE:  Bilateral CC and MLO and right ML 2D and 3D 
tomosynthesis and 
selected synthesized views were obtained with a BB over the area 
of clinical 
concern.  Computer aided detection was utilized and assisted 
with 
interpretation.  Targeted right breast ultrasound was performed. 

  
FINDINGS:  
  
Tissue density: C- The breast tissue is heterogeneously dense 
which may 
obscure detection of small masses. 
  
Right: Patient's palpable tumor mass along the outer inferior 
right breast at 
8 o'clock is only partially imaged on the CC mammogram.  
Otherwise, the mass 
is too close to the chest wall to be visualized by mammography.  
There is 
focal skin thickening along the right outer inferior breast, 
with subtle 
retraction seen on mammography. 
  
Left: The left breast is without suspicious dominant mass, 
unexplained 
architectural distortion or suspicious grouped calcifications.  
Scattered 
benign-appearing calcifications are noted in the left breast. 
  
RIGHT BREAST ULTRASOUND:  There is a visible tumor mass seen 
involving the 
skin along the right outer inferior breast at ___ o'clock.  The 
palpable mass 
appears fixed to the chest wall. 
Targeted ultrasound of the palpable mass at 8 o'clock 2 cm from 
the nipple 
demonstrates a 2.6 x 1.7 x 4.0 cm irregular hypoechoic shadowing 
mass, with 
associated skin thickening. 
Scanning of the right axilla demonstrates 3 abnormal axillary 
lymph nodes (out 
of 5 nodes visualized), the largest of which is in the upper 
axilla with 
cortical thickening up to 5 mm. 
  
IMPRESSION:  
  
Highly suspicious 2.6 x 1.7 x 4.0 cm right breast mass at 8 
o'clock with 
associated skin thickening, and at least 3 abnormal axillary 
lymph nodes. 
  
RECOMMENDATION(S):  Ultrasound-guided core biopsy of the right 
breast mass 
with clip placement. 
  
NOTIFICATION:  Findings and recommendation for biopsy were 
reviewed with the 
patient who agrees with this plan.  As a breast biopsy was 
previously ordered 
by her clinicians, this was subsequently performed later same 
day. 
  
BI-RADS:  5  Highly Suggestive of Malignancy. 

EXAMINATION:  CT CHEST W/CONTRAST 
  
INDICATION:  ___ year old woman with right breast mass, ?bony 
mets, staging 
scan// right breast mass, ?bony mets, staging scan 
  
TECHNIQUE:  MDCT of the chest was obtained from thoracic inlet 
to upper 
abdomen.  Axial images were reviewed in conjunction with coronal 
and sagittal 
reformats 
  
COMPARISON:  None 
  
FINDINGS:  
  
Aorta and pulmonary arteries are well enhanced.  No 
pathologically enlarged 
mediastinal, hilar or axillary lymph nodes demonstrated. 
  
Airways are patent to the subsegmental level bilaterally.  Heart 
size is 
normal.  There is no pericardial pleural effusion.  No pulmonary 
nodules 
detected. 
  
Extensive involvement of the entire skeleton by sclerotic and 
lytic lesions is 
demonstrated concerning for metastatic disease.  Largest lytic 
lesion, 10 x 10 
mm, series 8, image 66 is in T5.  No compression fractures 
demonstrated. 
  
Imaged portion of the upper abdomen reveals no appreciable 
abnormality. 
  
IMPRESSION:  
  
Extensive involvement of the skeleton by lytic and sclerotic 
lesions as 
described. 
  
Partially imaged right breast lesion, series 10, image 23. 
  
No other evidence of intrathoracic metastatic disease. 
  
___, MD electronically signed on ___ ___ 
12:23 ___ 

HISTORY:  ___ woman with sclerotic and lytic bone lesion 
os CT and a 
right breast mass. 
  
TECHNIQUE:  ISOTOPE DATA: (___) 27.0 mCi Tc-99m MDP. 
  
Anterior and posterior whole-body images were obtained 
approximately 3 hours 
following intravenous injection of the radiopharmaceutical.  
  
COMPARISON:  No prior bone scans for comparison. 
  
FINDINGS:  The images show no focal abnormal uptake in the 
skeleton. 
  
The kidneys and urinary bladder are visualized, the normal route 
of tracer 
excretion.  
  
IMPRESSION:  Normal bone scan.  No evidence of osseous 
metastatic disease on 
scintigraphy. 
  
  
___, M.D., Ph.D. (attending physician) 
Electronically signed by: ___, M.D., Ph.D. on 
___  3:06 ___ 
  

 
Brief Hospital Course:
Patient admitted for duodenal obstruction and breast mass 
workup. EUS performed showing duodenal narrowing without mucosal 
inflammation. MRCP shows the same thing and without discrete 
masses. No biopsy was performed as it is deemed too low yield. 
We performed R breast biopsy which showed invasive lobular 
carcinoma, CT chest showing many bone sclerotic and lytic 
lesions likely from metastasis. Bone scan was negative. however.
Over the course, she was slowly able to advance diet to full 
liquid diet, though still have early satiety and bloating. The 
duodenal narrowing could be due to PUD per our ERCP team, so she 
was started on PPIs. Other possibility is in fact BRCA with 
infiltration to the GI tract. Duodenal stent is technically too 
difficult, and patient was adamant about not getting a feeding 
tube and trying to take enough PO at home. She remained on 
current diet without getting dehydrated, and I think it may be 
reasonable to give her a outpatient PO trial. She will be 
discharged with oncology follow up and new PCP follow up. ___ is 
instructed to seek care if her abdominal symptoms gets worse, or 
if she can no longer sustain PO intake. At that time she will 
likely need a GJ tube.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
2.  Multivitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Lobular breast cancer
Partial duodenal obstruction
 
Discharge Condition:
Stable
 
Discharge Instructions:
You came in with nausea, vomiting, intolerance to food. You were 
found to have duodenal level narrowing and obstruction. The 
cause was unclear, but could potentially related to your breast 
cancer. You also presented with a right side breast mass and 
underwent biopsy, which showed lobular breast cancer. You will 
need outpatient oncology follow up within ___ weeks. We will set 
you up with a new PCP and our oncologists.
You were only able to tolerate full liquid diet. Do your best to 
keep up with caloric intake with full liquid diet. If you 
continues to lose weight, please speak with your PCP or 
oncologist to arrange a GJ tube.
We wish you all the best!
 
Followup Instructions:
___